US04892966
165.8 g (1.2 mol) of potassium carbonate and 4.6 g (0.02 mol) of benzyltriethylammonium chloride are suspended in 500 ml of acetonitrile. While stirring there are added thereto 146.1 g (1 mol) of methyl 4-methoxy-acetoacetate and there are added dropwise thereto within 10 minutes 138.8 g (1.5 mol) of chloroacetone. The mixture is stirred at 20°-25° C. for a further 7 hours. The reaction mixture is poured on to 1 liter of 10% NaH2PO4 solution/ice (pH value=5) and extracted 3 times with 500 ml of ethyl acetate each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator to give 206.30 g (100%) of methyl 4-methoxy-2-acetonylacetoacetate, content: 84.3%; b.p. 104°-105° C./0.06 mbar.

reactant | potassium carbonate | 1.2 mol, 165.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-methoxy-acetoacetate | 1 mol, 146.1 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | chloroacetone | 1.5 mol, 138.8 g | ClCC(C)=O | C3H5ClO
catalyst | benzyltriethylammonium chloride | 0.02 mol, 4.6 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | methyl 4-methoxy-2-acetonylacetoacetate | 206.30 g, 100% | COCC(C(C(=O)OC)CC(=O)C)=O | C9H14O5
